US04113732
182 parts of p-methoxyphenyl-thiourea are suspended in ethylene chloride, and dehydrated, as described in Example 1. 35.5 parts of chlorine gas are then passed in over 1 hour at 20° C., but without addition of bromine. After stirring for a further hour, 6 parts of bromine are added, the mixture is heated to 40° C., and a further 35.5 parts of chlorine gas are introduced at this temperature over one hour. The reaction product is isolated as described in Example 1. 168 parts of 6-methoxy-2-amino-benzothiazole of melting point 160°-163° C. are thus obtained, corresponding to 93% of theory.

reactant | p-methoxyphenyl-thiourea | COC1=CC=C(C=C1)NC(=S)N | C8H10N2OS
reactant | chlorine | ClCl | Cl2
reactant | bromine | BrBr | Br2
solvent | ethylene chloride | C(CCl)Cl | C2H4Cl2
product | 6-methoxy-2-amino-benzothiazole | COC1=CC2=C(N=C(S2)N)C=C1 | C8H8N2OS
